US08314119B2
4-(6-Chloropyridazin-3-yloxy)-1-azatricyclo[3.3.1.13,7]decane
Prepared from 1-azaadamantan-4-ol (3:2 diastereomer mixture; 150 mg, 0.979 mmol; see WO 9215579) and 3,6-dichloropyridazine (182 mg, 1.22 mmol; Aldrich) according to Method B to afford the title compound as a mixture of stereoisomers: MS (DCI/NH3) m/z=266 (M+H)+.

reactant | 1-azaadamantan-4-ol | 0.979 mmol, 150 mg | N12CC3C(C(CC(C1)C3)C2)O | C9H15NO
reactant | 3,6-dichloropyridazine | 1.22 mmol, 182 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 4-(6-Chloropyridazin-3-yloxy)-1-azatricyclo[3.3.1.13,7]decane | ClC1=CC=C(N=N1)OC1C2CN3CC(CC1C3)C2 | C13H16ClN3O
